US04025505
The mixture of 0.75 g of N-(4-benzyloxycarbonylamino-o-tolyl)-4-chlorophthalimide 100 ml of ethyl acetate and 0.1 g of 10% palladium on charcoal is hydrogenated at 2.5 atm. and room temperature for 4 hours whereby the intermediarily formed carbaminic acid decarboxylates. The mixture is filtered, the filtrate concentrated to 10 ml and the precipitate formed collected, to yield the N-(4-amino-o-tolyl)-4-chlorophthalimide melting at 202°-204°.

reactant | N-(4-benzyloxycarbonylamino-o-tolyl)-4-chlorophthalimide | 100 ml, 0.75 g | C(C1=CC=CC=C1)OC(=O)NC1=CC(=C(C=C1)C)N1C(C=2C(C1=O)=CC(=CC2)Cl)=O | C23H17ClN2O4
catalyst | palladium on charcoal | 0.1 g | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-amino-o-tolyl)-4-chlorophthalimide | NC1=CC(=C(C=C1)C)N1C(C=2C(C1=O)=CC(=CC2)Cl)=O | C15H11ClN2O2
